US04950677
A solution of 13.7 g of 5,6-difluoro-2-[[(4-methoxy 3-methyl-2-pyridyl)methyl]thio]benzimidazole in 800 ml of methylene chloride and 130 ml of methanol was treated with 6.9 g of potassium carbonate. 9.6 g of m-chloroperbenzoic acid were added thereto at -30°, whereupon the solution was stirred for a further 5 minutes and subsequently poured into a mixture of 200 ml of saturated sodium bicarbonate solution and 200 ml of water. The separated organic phase was dried over sodium sulfate, treated with 5.0 ml of triethylamine and evaporated in a vacuum. Crystallization from methylene chloride-methanol-ether yielded 5,6-difluoro-2-[[(4-methoxy-3-methyl-2-pyridyl))methyl]sulfinyl]benzimidazole of melting point 188°-189°.

reactant | 5,6-difluoro-2-[[(4-methoxy 3-methyl-2-pyridyl)methyl]thio]benzimidazole | 13.7 g | FC1=CC2=C(N=C(N2)SCC2=NC=CC(=C2C)OC)C=C1F | C15H13F2N3OS
reactant | potassium carbonate | 6.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | m-chloroperbenzoic acid | 9.6 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium bicarbonate | 200 ml | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 800 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 130 ml | CO | CH4O
solvent | water | 200 ml | O | H2O
product | benzimidazole | N1=CNC2=C1C=CC=C2 | C7H6N2
